US09061994B1
Synthesis of 5-methoxy-2-propylindole-3-carboxaldehyde (106b)
Dimethylformamide (2 mL) was cooled to 0° C. Phosphorus oxychloride (0.5 mL) was added and the reaction mixture was stirred for 10 minutes. A solution of 5-methoxy-2-propylindole (325 mg, 1.7 mmol) in dimethylformamide (3 mL) was added to the reaction mixture dropwise over 10 minutes. The solution was stirred for an additional 40 minutes. The reaction mixture was added to ice cold 1 N NaOH (50 mL) and stirred for 10 minutes. The precipitate was collected and dried overnight in an oil driven vacuum pump equipped to a vacuum desiccator set at 40° C. yielding a white solid (318 mg, 86%): TLC Rf 0.67 in 4:1 ethyl acetate/hexanes. Melting point=166-168° C. 1H NMR (600 MHz, CDCl3) δ 10.16 (s, 1H), 8.31 (s, 1H), 7.79 (d, 1H, J=2.46 Hz), 7.23-7.22 (d, 1H, J=8.82 Hz), 6.89-6.87 (dd, 1H, J1=2.54, J2=8.76 Hz), 3.89 (s, 3H), 3.06-3.04 (t, 2H, J=7.5 Hz), 1.84-1.80 (m, 2H) 1.05-1.03 (t, 3H, J=7.32 Hz); 13C NMR (150 MHz, CDCl3) δ 184.4, 156.5, 151.4401, 129.6, 126.7, 114.7, 113.5, 111.5, 103.0, 55.8, 28.3, 23.5, 13.8. Elemental analysis calculated for C13H15NO2: C, 71.87; H, 6.96; N, 6.45. Found: C, 71.92; H, 6.97; N, 6.34.

reactant | Phosphorus oxychloride | 0.5 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 5-methoxy-2-propylindole | 1.7 mmol, 325 mg | COC=1C=C2C=C(NC2=CC1)CCC | C12H15NO
reactant | dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
reactant | Dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
product | 5-methoxy-2-propylindole-3-carboxaldehyde | 318 mg, 86% | COC=1C=C2C(=C(NC2=CC1)CCC)C=O | C13H15NO2
